US08349827B2
Step 1: Preparation of (E)-6-((dimethylamino)methylene)-6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one
To a solution of 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one (as described in WO 2007038215) (0.38 g) and dimethylformamide dimethylacetal (1.5 mL) in tetrahydrofuran (10 mL) were heated at 60° C. under nitrogen for 24 hours. Additional dimethylformamide dimethylacetal (2 mL) was then added and the mixture heated at 60° C. under nitrogen for an additional 48 hours. The reaction mixture was cooled and solvent removed under reduced pressure to give the desired product, (E)-6-((dimethylamino)methylene)-6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one (0.745 g) as a brown solid, which was used without further purification in Step 2.

reactant | 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one | 0.38 g | N1=CC=CC2=C1NC1=C(CC2=O)C=CN=C1 | C12H9N3O
reactant | dimethylformamide dimethylacetal | 1.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | dimethylformamide dimethylacetal | 2 mL | COC(N(C)C)OC | C5H13NO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (E)-6-((dimethylamino)methylene)-6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one | 0.745 g | CN(C)\C=C/1\C(C2=C(NC3=C1C=CN=C3)N=CC=C2)=O | C15H14N4O
